US06750225B2
Preparation of 6-(4-iodophenyl)-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide.
Ethyl 6-(4-iodophenyl)-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylate from Part C (3.0 g, 5.8 mmol) was suspended in 8% NH3 in ethylene glycol (30 mL) in a 100 mL pressure tube. The mixture was heated at 85° C. for 18 hours. Water was added, and the precipitate was filtered and washed with water. The crude product was dried under vacuum to afford 3.2 g of final product. MS (ES+): 489.2 (M+H)+. 1H NMR (DMSO-d6) δ: 7.72-7.68 (m, 3H), 7.49-7.41 (m, 3H), 7.15 (d, 2H), 6.97 (d, 2H), 4.00 (t, 2H), 3.77 (s, 3H), 3.16 (t, 2H) ppm.

reactant | Ethyl 6-(4-iodophenyl)-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylate | IC1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(=O)OCC)=O | C22H20IN3O4
reactant | Water | O | H2O
reactant | NH3 | N | H3N
solvent | ethylene glycol | 30 mL | C(CO)O | C2H6O2
product | 6-(4-iodophenyl)-1-(4-methoxyphenyl)-7-oxo-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxamide | 3.2 g | IC1=CC=C(C=C1)N1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(=O)N)=O | C20H17IN4O3
